US06187802B1
A mixture of the crude 2-bromo-1-[1-(2-naphthyl)cyclobutyl]ethanone described above, imidazolidine-2-thione (5.1 g), ethanol (60 ml) and acetic acid (40 ml) was heated under reflux for 18 hours then allowed to cool to ambient temperature. The solvents were removed in vacuo and the residue was triturated with a hot mixture of ethyl acetate (100 ml) and acetone (20 ml). The resulting solid was collected by filtration, washed with ethyl acetate (50 ml), dried in vacuo at 60° C., then crystallised from ethanol. The resulting solid was collected by filtration, washed with ethanol (30 ml), and dried in vacuo at 60° C. to give 3-[1-(2-naphthyl)cyclobutyl]-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide as pale yellow prisms (10 g), m.p. 239-241° C.

reactant | 2-bromo-1-[1-(2-naphthyl)cyclobutyl]ethanone | BrCC(=O)C1(CCC1)C1=CC2=CC=CC=C2C=C1 | C16H15BrO
reactant | imidazolidine-2-thione | 5.1 g | N1C(NCC1)=S | C3H6N2S
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-[1-(2-naphthyl)cyclobutyl]-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 10 g | Br.C1=C(C=CC2=CC=CC=C12)C1(CCC1)C=1N2C(SC1)=NCC2 | InChI=1S/C19H18N2S.BrH/c1-2-5-15-12-16(7-6-14(15)4-1)19(8-3-9-19)17-13-22-18-20-10-11-21(17)18;/h1-2,4-7,12-13H,3,8-11H2;1H
